US06734322B1
268 g (2 mol) of phthalide, 9.3 g (0.1 mol) of β-picoline and 3.1 g (0.05 mol) of crystalline boric acid (Riedel de Haen) were initially charged. At 140-150° C., a total of 245 g (2.45 mol) of gaseous phosgene was introduced over a period of 7 h. The mixture was then stirred at 140° C. for another hour. Excess phosgene was stripped using nitrogen, giving a discharge of 380 g having a content of 96 GC area % of o-chloro-ethylbenzoyl chloride and 1.4% of unreacted phthalide. ractional distillation of the crude discharge gave 340 g of o-chloromethylbenzoyl chloride (90% of theory) of a purity of >97%.

reactant | phthalide | 2 mol, 268 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | phosgene | 2.45 mol, 245 g | C(=O)(Cl)Cl | CCl2O
reactant | o-chloro-ethylbenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1CC | C9H8Cl2O
catalyst | β-picoline | 0.1 mol, 9.3 g | N1=CC(=CC=C1)C | C6H7N
catalyst | boric acid | 0.05 mol, 3.1 g | B(O)(O)O | BH3O3
product | o-chloromethylbenzoyl chloride | 340 g, 90% | ClCC1=C(C(=O)Cl)C=CC=C1 | C8H6Cl2O
